US08349885B2
Synthesis of (5-chloro-2-phenyl-1H-indol-7-yl)-(1-methyl-piperidin-4-yl)-amine
5-Chloro-7-nitro-2-phenyl-1H-indole (337 mg, 1.23 mmol) was reacted instead of 5-methyl-7-nitro-2-phenyl-1H-indole in Preparation 50 to give the title compound 288 mg (Yield 69%).

reactant | 5-Chloro-7-nitro-2-phenyl-1H-indole | 1.23 mmol, 337 mg | ClC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C14H9ClN2O2
reactant | 5-methyl-7-nitro-2-phenyl-1H-indole | CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C15H12N2O2
product | (5-chloro-2-phenyl-1H-indol-7-yl)-(1-methyl-piperidin-4-yl)-amine | 288 mg, Yield 69% | ClC=1C=C2C=C(NC2=C(C1)NC1CCN(CC1)C)C1=CC=CC=C1 | C20H22ClN3
